US07435823B2
Step (b) Preparation of 4-chloro-7-methoxyquinoline
To a solution of POCl3 (11 mL, excess), 7-methoxyquinolin-4-ol (1.87 g, 10.67 mmol) was added and heated from RT to 90° C. The mixture was allowed to cool to RT, concentrated in-vacuo and cooled in an ice bath during the slow adjustment to pH 7 by alternating ice and 1N NaOH. The solid was filtered and rinsed with water. The title compound was isolated as a tan solid.

reactant | POCl3 | 11 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 7-methoxyquinolin-4-ol | 10.67 mmol, 1.87 g | COC1=CC=C2C(=CC=NC2=C1)O | C10H9NO2
product | 4-chloro-7-methoxyquinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
